US04593027
3-(4-Trifluoromethylphenyl)-7-chloro-10-hydroxy-3,4-dihydroacridine-1,9(2H,10H)-dione 1-(N-methyl-N'-piperazinyl)imine
40.75 g (0.1 mole) of 3-(4-trifluoromethylphenyl)-7-chloro-10-hydroxy-3,4-dihydroacridine-1,9(2H,10H)-dione are suspended in 500 ml of ethanol, 11.5 g (0.1 mole) of N-methyl-N'-aminopiperazine are added and the reaction mixture is heated to reflux for 30 minutes. A clear orange-red solution forms during this. After cooling down, the ethanol is distilled out in a rotary evaporator and the solid residue is recrystallized from toluene/cyclohexane (1:1). 43 g=85% of theory of the title compound is thus obtained in the form of orange-yellow crystals of melting point 213° C.

reactant | 3-(4-trifluoromethylphenyl)-7-chloro-10-hydroxy-3,4-dihydroacridine-1,9(2H,10H)-dione | 0.1 mole, 40.75 g | FC(C1=CC=C(C=C1)C1CC(C=2C(C3=CC(=CC=C3N(C2C1)O)Cl)=O)=O)(F)F | C20H13ClF3NO3
reactant | N-methyl-N'-aminopiperazine | 0.1 mole, 11.5 g | CN1CCN(CC1)N | C5H13N3
solvent | ethanol | 500 ml | C(C)O | C2H6O
product | 3-(4-Trifluoromethylphenyl)-7-chloro-10-hydroxy-3,4-dihydroacridine-1,9(2H,10H)-dione 1-(N-methyl-N'-piperazinyl)imine | CN1CCN(CC1)N=C1CC(CC=2N(C3=CC=C(C=C3C(C12)=O)Cl)O)C1=CC=C(C=C1)C(F)(F)F | C25H24ClF3N4O2
